US04009208
107. N,N'-Undecamethylenebis(4-trifluoromethoxy-benzamide)
m.p. 141.5°-142.5° C., 22.2 g., was prepared as in Example 1 using 24.8 g. of 4-trifluoromethoxybenzoyl chloride in 100 ml. of ethylene dichloride, 9.3 g. of 1,11-undecanediamine, 120 ml. of 10% aqueous potassium hydroxide solution, 400 ml. of ethylene dichloride and recrystallization from acetonitrile.

reactant | 4-trifluoromethoxybenzoyl chloride | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
reactant | 1,11-undecanediamine | C(CCCCCCCCCCN)N | C11H26N2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | N,N'-Undecamethylenebis(4-trifluoromethoxy-benzamide) | FC(OC1=CC=C(C(=O)NCCCCCCCCCCCNC(C2=CC=C(C=C2)OC(F)(F)F)=O)C=C1)(F)F | C27H32F6N2O4
